US07273878B2
To 5 ml of N,N-dimethylformamide were dissolved 0.32 g (1.1 mmol) of 6,6-difluoro-5-methyl-5-hexenyl 1H-indole-2-carboxylate and 0.34 g (2.2 mmol) of ethyl iodide, followed by the addition of 0.06 g (1.5 mmol) of sodium hydride at room temperature and stirring at the same temperature for 1 hour. The reaction liquid was then poured in water and extracted with diethyl ether. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentration under reduced pressure. The residue was purified with silica gel column chromatography (ethyl acetate:hexane=1:5) to obtain 0.31 g (yield: 88%) of 6,6-difluoro-5-methyl-5-hexenyl 1-ethyl-1H-indole-2-carboxylate.

reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | 6,6-difluoro-5-methyl-5-hexenyl 1H-indole-2-carboxylate | 1.1 mmol, 0.32 g | N1C(=CC2=CC=CC=C12)C(=O)OCCCCC(=C(F)F)C | C16H17F2NO2
reactant | ethyl iodide | 2.2 mmol, 0.34 g | C(C)I | C2H5I
reactant | sodium hydride | 1.5 mmol, 0.06 g | [H-].[Na+]
solvent | water | O | H2O
product | 6,6-difluoro-5-methyl-5-hexenyl 1-ethyl-1H-indole-2-carboxylate | 0.31 g, yield: 88% | C(C)N1C(=CC2=CC=CC=C12)C(=O)OCCCCC(=C(F)F)C | C18H21F2NO2
